US04873255
Ethyl 3-[4-(7-acetoxy-2,8-dimethylchroman-2-ylmethoxy)-phenyl]-2-chloropropionate
A procedure similar to that described in Preparation 5 was repeated, except that 1.3 g of 7-acetoxy-2-(4-aminophenoxymethyl)-2,8-dimethylchroman (prepared as described in Preparation 40), 340 mg of sodium nitrite, 1.3 ml of concentrated aqueous hydrochloric acid, 4 ml of ethyl acrylate, 60 mg of cuprous oxide, 10 ml of acetone and 0.5 ml of water were reacted, to afford 1.0 g of the title compound as a pale yellow oil.

reactant | 7-acetoxy-2-(4-aminophenoxymethyl)-2,8-dimethylchroman | 1.3 g | C(C)(=O)OC1=CC=C2CCC(OC2=C1C)(C)COC1=CC=C(C=C1)N | C20H23NO4
reactant | sodium nitrite | 340 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
reactant | ethyl acrylate | 4 ml | C(C=C)(=O)OCC | C5H8O2
solvent | water | 0.5 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ethyl 3-[4-(7-acetoxy-2,8-dimethylchroman-2-ylmethoxy)-phenyl]-2-chloropropionate | 1.0 g | C(C)(=O)OC1=CC=C2CCC(OC2=C1C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl | C25H29ClO6
